US05344939
To a solution of Boc-LeuCHFCOOBzl (3.58 g, 9.39 mmol) in ethanol (50 mL) was added 10% palladium on active charcoal (0.36 g). The mixture was subjected to hydrogenolysis on a Parr shaker for 36 hours. The solution was filtered and the solvent was evaporated. The residue was dissolved in ethyl acetate (100 mL), washed with saturated aqueous NaHCO3 (50 mL), brine (50 mL), dried over MgSO4, filtered, and evaporated to give an almost colorless, viscous oil, Boc-LeuCH2F (1.53 g, 66%).

reactant | Boc-LeuCHFCOOBzl | 9.39 mmol, 3.58 g | N([C@@H](CC(C)C)C(=O)C(F)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C20H28FNO5
reactant | charcoal | 0.36 g | C | CH4
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | Boc-LeuCH2F | 1.53 g, 66% | N([C@@H](CC(C)C)C(=O)CF)C(=O)OC(C)(C)C | C12H22FNO3
